2143-09-04 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2143-9-3**] 10:41 AM
 PAN CULTURE - At [**2143-9-3**] 11:41 PM
   temp 101.8, pan-cultured
 FEVER - 101.8
F - [**2143-9-3**] 11:00 PM
   -Fever overnight, pan-cultured, given Tylenol.
   -Densensitization proceeded without incident overnight.
   -One port clogged on triple lumen.
   -A-line tracing positional, not [**Location (un) 103**] well.
   Allergies:
   Penicillins
   Wheezing;
   Codeine
   Rash;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown; Anaphy
   Last dose of Antibiotics:
   Metronidazole - [**2143-9-3**] 11:00 PM
   Fluconazole - [**2143-9-4**] 01:00 AM
   Penicillin G potassium - [**2143-9-4**] 03:58 AM
   Vancomycin - [**2143-9-4**] 03:59 AM
   Ciprofloxacin - [**2143-9-4**] 05:25 AM
   Infusions:
   Midazolam (Versed) - 23 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-9-3**] 08:03 AM
   Metoprolol - [**2143-9-3**] 10:00 AM
   Hydromorphone (Dilaudid) - [**2143-9-3**] 10:59 AM
   Heparin Sodium (Prophylaxis) - [**2143-9-3**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-4**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.1
C (100.5
   HR: 89 (83 - 101) bpm
   BP: 106/56(75) {82/49(67) - 123/82(284)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 89.2 kg
   Height: 63 Inch
    CVP: 238 (6 - 238)mmHg
   Total In:
                                                                  5,161 mL
                                                                  1,801 mL
   PO:
   TF:
   IVF:
                                                                  5,161 mL
                                                                  1,801 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                  2,685 mL
   Urine:
                                                                  3,740 mL
                                                                  2,685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,421 mL
                                                                   -884 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 222 (222 - 222) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.45/43/105/28/4
   Ve: 11.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   473 K/uL
   7.0 g/dL
   125 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   5 mg/dL
   103 mEq/L
   140 mEq/L
   23.4 %
   7.3 K/uL
        [image002.jpg]
                             [**2143-9-1**]  03:14 AM
                             [**2143-9-1**]  03:25 AM
                             [**2143-9-1**]  05:45 PM
                             [**2143-9-2**]  02:05 AM
                             [**2143-9-2**]  11:06 AM
                             [**2143-9-2**]  08:26 PM
                             [**2143-9-3**]  02:45 AM
                             [**2143-9-3**]  01:12 PM
                             [**2143-9-4**]  01:38 AM
                             [**2143-9-4**]  02:33 AM
   WBC
   9.6
   10.5
   11.6
   15.1
   9.8
   10.0
   7.3
   Hct
   26.0
   24.2
   25.8
   25.1
   21.9
   23.0
   23.4
   Plt
   342
   338
   397
   485
   376
   480
   473
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   29
   31
   Glucose
   185
   121
   121
   120
   127
   117
   125
   Other labs: PT / PTT / INR:16.9/30.1/1.5, Alk Phos / T Bili:/0.2,
   Differential-Neuts:73.6 %, Lymph:18.1 %, Mono:4.3 %, Eos:3.7 %, Lactic
   Acid:1.5 mmol/L, LDH:156 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 BRAIN ABSCESS (CNS ABSCESS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O BRAIN ABSCESS (CNS ABSCESS)
 .H/O [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   This is a 53 yo female with history of NHL, bovine AVR, afib s/p
   cardioversion who presented with right sided weakness and progressing
   aphasia and found to have L sided parietal abscess which has been
   drained course c/b seizures.
   .
   ## Brain Abscess: Pt is s/p evacuation of L parietal abscess, cultures
   positive for Strep. MRI demonstrates interval improvement since
   evacuation. Wound cxs from brain abscess confirmed streptococcus.
   Streptococcus species most likely to be involved include viridans
   streptococci, Streptococcus milleri, microaerophilic streptococci and
   Streptococcus pneumoniae. Seems less likely this is [**2-4**] endocarditis
   given negative TEE today. Other possible sources include paranasal
   sinuses, lungs or GI tract. Suspicious of GI tract given fluid
   collection at hilum of spleen seen on CT. Also notable, that patient's
   chief complaint abd pain. Must also consider sinuses though per husband
   pt not complaining of sinus pain nor congestion. Lungs seem unlikely
   given no infiltrates on CXR.
   - Discuss finding of new multiloculated subdural collection on MR [**First Name (Titles) **]
[**Last Name (Titles) 7979**]urg--?further drainage needed
   - Being transitioned to PCN (off vancomycin) after successful
   desensitization
   - Cont fluconazole until final fungal cx returns
   - follow up final abscess cxs
   - Per Neurosurg plan is for repeat Head CT in 4 weeks; will clarify if
   no further instrumentation for loculated area
   - Appreciate ID recs
   .
   ## Seizures: Noted to have focal motor seizures involving right arm
   beginning [**8-31**] recorded on EEG. At that time loaded with dilantin and
   keppra. Despite adding midazolam continous sz activity persisted
   through [**9-2**]. Keppra and Dilantin continued to be titrated up with
   resulting cessation of continous sz activity beginning the evening of
   [**9-2**].
   - Phenytoin level this morning therapeutic
   - Pt bolused another 800mg dilantin yesterday and dilantin dose
   increased to 100/200/200mg, Keppra increased to 2000mg [**Hospital1 **] and
   midazolam gtt increased to 0.25mg/kg/hour
   - Continous EEG monitoring
   - Appreciate neurology recs
   .
   ## Splenic Hilum Fluid Collection: Suspicious for focus of infection
   especially given pt's month long complaint of LUQ pain. IR feels this
   is a chronic collection and is not in favor of percutaneous drainage.
   - discuss with general surgery
   -will confirm that OK to have OGT
   - cont flagyl and cipro for now; appreciate ID regs
   - monitor abd exam
   .
   ## PCN Allergy: Plan for PCN desensitization per allergy protocol.
   Risks and benefits discussed with patient's husband who understands
   risks and benefits of desensitization.
   - Desensitization protocol completed without incident.
   - To start PCN at therapeutic doses today
   .
   ## S/P Intubation: Patient intubated prior to going to OR for drainage
   of brain abscess.  She remains stable on CMV. Patient will likely
   require intubation at least until seizures well controlled.
   - ABG 7.45/43/105
   - continue current settings for now; will attempt to wean sedatives and
   speak with neurology re: status for possible extubation tomorrow
   .
   ## Atrial Fibrillation: Pt is s/p cardioversion in [**2141**]. ECGs while in
   house are sinus rhythm. Per SICU team pt went into afib with rvr and
   was started on dilt drip on [**2143-9-2**]. Pt currently in sinus rhythm in
   90's with ventricular ectopy.
   - cont IV dilt and IV metop for now
   - monitor on tele
   - pt no longer on warfarin given h/o UGIB
   - consider switching back to outpt dose of sotalol when able to take
   PO's
   .
   ## HTN: BP well controlled at this time. Cont BB and CCB as per above.
   No need for addtl agents at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-8-31**] 11:44 AM
   Arterial Line - [**2143-9-2**] 10:30 PM
   22 Gauge - [**2143-9-3**] 08:19 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Will speak with husband today re: status Comments:
   Code status:  Full Code
   Disposition:  ICU

2143-09-04 09:33:00 Physician Attending Progress Note
Chief Complaint: Brain abcess, Splenic [**Hospital3 1918**] failure,
   seizures
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PCN desensitization overnight
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2143-9-3**] 10:41 AM
 PAN CULTURE - At [**2143-9-3**] 11:41 PM
   temp 101.8, pan-cultured
 FEVER - 101.8
F - [**2143-9-3**] 11:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Wheezing;
   Codeine
   Rash;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown; Anaphy
   Last dose of Antibiotics:
   Fluconazole - [**2143-9-4**] 01:00 AM
   Vancomycin - [**2143-9-4**] 03:59 AM
   Ciprofloxacin - [**2143-9-4**] 05:25 AM
   Penicillin G potassium - [**2143-9-4**] 09:00 AM
   Metronidazole - [**2143-9-4**] 09:01 AM
   Infusions:
   Midazolam (Versed) - 23 mg/hour
   Other ICU medications:
   Metoprolol - [**2143-9-3**] 10:00 AM
   Hydromorphone (Dilaudid) - [**2143-9-3**] 10:59 AM
   Heparin Sodium (Prophylaxis) - [**2143-9-4**] 07:44 AM
   Pantoprazole (Protonix) - [**2143-9-4**] 08:00 AM
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: No(t) NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2143-9-4**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.6
C (99.7
   HR: 89 (83 - 101) bpm
   BP: 109/69(86) {82/49(67) - 123/82(284)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 89.2 kg
   Height: 63 Inch
   CVP: 238 (6 - 238)mmHg
   Total In:
                                                                  5,161 mL
                                                                  2,151 mL
   PO:
   TF:
   IVF:
                                                                  5,161 mL
                                                                  2,151 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                  3,490 mL
   Urine:
                                                                  3,740 mL
                                                                  3,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,421 mL
                                                                 -1,339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 222 (222 - 222) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.45/43/105/28/4
   Ve: 8.8 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   473 K/uL
   125 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   5 mg/dL
   103 mEq/L
   140 mEq/L
   23.4 %
   7.3 K/uL
        [image002.jpg]
                             [**2143-9-1**]  03:14 AM
                             [**2143-9-1**]  03:25 AM
                             [**2143-9-1**]  05:45 PM
                             [**2143-9-2**]  02:05 AM
                             [**2143-9-2**]  11:06 AM
                             [**2143-9-2**]  08:26 PM
                             [**2143-9-3**]  02:45 AM
                             [**2143-9-3**]  01:12 PM
                             [**2143-9-4**]  01:38 AM
                             [**2143-9-4**]  02:33 AM
   WBC
   9.6
   10.5
   11.6
   15.1
   9.8
   10.0
   7.3
   Hct
   26.0
   24.2
   25.8
   25.1
   21.9
   23.0
   23.4
   Plt
   342
   338
   397
   485
   376
   480
   473
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   29
   31
   Glucose
   185
   121
   121
   120
   127
   117
   125
   Other labs: PT / PTT / INR:16.9/30.1/1.5, Alk Phos / T Bili:/0.2,
   Differential-Neuts:73.6 %, Lymph:18.1 %, Mono:4.3 %, Eos:3.7 %, Lactic
   Acid:1.5 mmol/L, LDH:156 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   53 yo woman with brain abcess, splenic abcess, fevers, respiratory
   failure
   1. Brain abcess: Continue PCN - dens complete.  Vanco D/C'd
   2. Seizure: Will redode Dilantin.  Cont Keppra, midazolam.
   3. Splenic abcess: no drainable collection per IR.  Will cont cipro.
   4. ?Anastomotic leak: low suspicion - will discuss with surgery need
   for gatrograffin study.
   5. Respiratory Failure: Continue current vent management.  If seizure
   activity continues to diminish will aim for extubation tomorrow
   Remainder of issue per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-8-31**] 11:44 AM
   Arterial Line - [**2143-9-2**] 10:30 PM
   22 Gauge - [**2143-9-3**] 08:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2143-09-05 07:25:00 Physician Resident Progress Note
Chief Complaint: This is a 53 yo female with history of NHL, bovine
   AVR, afib s/p cardioversion who presented with right sided weakness and
   progressing aphasia and found to have L sided parietal abscess which
   has been drained course c/b seizures.
   24 Hour Events:
   -Spoke with neurosurg- No further instrumentation; Needs Sutures
   removed on [**2143-9-10**] (POD #10, [**Doctor First Name **] was on [**2143-8-31**]). Needs repeat
   noncontrast CT head in 4 wks and f/u with Dr. [**Last Name (STitle) 1703**].
   -Page [**Numeric Identifier 5083**] when EEG leads removed to take off dressing
   -Radiology said has evidence of chronic sinus disease on MRI, and was
   visualized well, but nothing looks acute and not likely to gain further
   information on dedicated sinus CT.
   -Fluids- goal to be even (concern for DI), started IVF at 150cc/hr for
   2 liters at 2pm; at 2am was even.  FENa 1.39; got urine and serum
   osms...urine osm>500, serum osm 282
   -ID thinks source of fevers=perforated marginal ulcer vs. splenic fluid
   collection; recommended EGD to evaluate for marginal ulcer/abscess
   (which she has had in the past)
   -Spoke with surgery- had recommended gastrograffin study in the past to
   evaluate for leak, but was never done [**2-4**] respiratory status. Also
   asked about OGT, which they said would have to be done very carefully
   if done at bedside. Recommended IR placed Dophoff with concomminant
   gastrograffin study. Will need to speak with IR about this.
   -Got CRP (pending); ESR=150. ID had wanted these studies for baseline.
   Need to touch base about how long to continue antibiotics
   -Neurology said no evidence of seizure activity on EEG. Recommended
   decreasing midazolam to 13.5mg/hour. Want dilantin levels daily, and
   bolus 300-500 to maintain level of 20.
   Allergies:
   Penicillins
   Wheezing;
   Codeine
   Rash;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown; Anaphy
   Last dose of Antibiotics:
   Vancomycin - [**2143-9-4**] 03:59 AM
   Fluconazole - [**2143-9-5**] 12:00 AM
   Metronidazole - [**2143-9-5**] 12:00 AM
   Ciprofloxacin - [**2143-9-5**] 04:00 AM
   Penicillin G potassium - [**2143-9-5**] 05:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 13.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-9-4**] 08:00 AM
   Hydromorphone (Dilaudid) - [**2143-9-4**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2143-9-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-5**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 96 (82 - 100) bpm
   BP: 122/68(90) {85/54(71) - 134/75(99)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 89.2 kg
   Height: 63 Inch
             Total In:
                                                                  4,091 mL
                                                                    687 mL
   PO:
             TF:
   IVF:
                                                                  4,091 mL
                                                                    687 mL
   Blood products:
   Total out:
                                                                  5,450 mL
                                                                  1,540 mL
   Urine:
                                                                  5,450 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,359 mL
                                                                   -853 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/43/99.[**Numeric Identifier 433**]/27/4
   Ve: 7.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   583 K/uL
   7.1 g/dL
   116 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.0 mEq/L
   6 mg/dL
   101 mEq/L
   139 mEq/L
   23.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2143-9-2**]  02:05 AM
                             [**2143-9-2**]  11:06 AM
                             [**2143-9-2**]  08:26 PM
                             [**2143-9-3**]  02:45 AM
                             [**2143-9-3**]  01:12 PM
                             [**2143-9-4**]  01:38 AM
                             [**2143-9-4**]  02:33 AM
                             [**2143-9-4**]  02:47 PM
                             [**2143-9-5**]  02:41 AM
                             [**2143-9-5**]  03:40 AM
   WBC
   10.5
   11.6
   15.1
   9.8
   10.0
   7.3
   7.4
   8.5
   Hct
   24.2
   25.8
   25.1
   21.9
   23.0
   23.4
   22.8
   23.5
   Plt
   338
   397
   485
   376
   [**Telephone/Fax (2) 8005**]83
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   31
   30
   Glucose
   121
   120
   127
   117
   125
   101
   116
   Other labs: PT / PTT / INR:18.2/27.1/1.6, Alk Phos / T Bili:/0.2,
   Differential-Neuts:73.6 %, Lymph:18.1 %, Mono:4.3 %, Eos:3.7 %, Lactic
   Acid:1.5 mmol/L, LDH:156 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 BRAIN ABSCESS (CNS ABSCESS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O BRAIN ABSCESS (CNS ABSCESS)
 .H/O [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   This is a 53 yo female with history of NHL, bovine AVR, afib s/p
   cardioversion who presented with right sided weakness and progressing
   aphasia and found to have L sided parietal abscess which has been
   drained course c/b seizures.
   .
   ## Brain Abscess: Pt is s/p evacuation of L parietal abscess, cultures
   positive for Strep. MRI demonstrates interval improvement since
   evacuation. Wound cxs from brain abscess confirmed streptococcus.  Less
   likely this is [**2-4**] endocarditis given negative TEE today. Other
   possible sources include paranasal sinuses, lungs or GI tract.
   Suspicious of GI tract given fluid collection at hilum of spleen seen
   on CT. Also notable, that patient's chief complaint abd pain. Must also
   consider sinuses though per husband pt not complaining of sinus pain
   nor congestion. Lungs seem unlikely given no infiltrates on CXR.
   - Discuss finding of new multiloculated subdural collection on MR [**First Name (Titles) **]
[**Last Name (Titles) 7979**]urg--?further drainage needed
   - Now on PCN after successful desensitization
   - Cont fluconazole until final fungal cx returns
   - follow up final abscess cxs
   - Neurosurg recommends no further intervention for now - will need
   sutures out on POD #10 - [**2143-9-10**]
   - MRI showed chronic sinusitis, but nothing acute - further imaging
   unlikely to add more information.
   .
   ## Seizures: Noted to have focal motor seizures involving right arm
   beginning [**8-31**] recorded on EEG. At that time loaded with dilantin and
   keppra. Despite adding midazolam continous sz activity persisted
   through [**9-2**]. Keppra and Dilantin continued to be titrated up with
   resulting cessation of continous sz activity beginning the evening of
   [**9-2**].
   - Continous EEG monitoring - no evidence of seizure activity per
   neurology
   - Phenytoin level this morning low - 12.8.  Neuro wants to maintain
   level at 20.  Will bolus for increased level.
   -Neuro recommendes decreasing midazolam to 13.5mg/hour. Want dilantin
   levels daily, and bolus 300-500 to maintain level of 20.
   - Continue to follow neurology recs
   .
   ## Splenic Hilum Fluid Collection: Suspicious for focus of infection
   especially given pt's month long complaint of LUQ pain. Discussed with
   ID and general surgery.
   -discuss with IR, plan to place Dophoff with Gastrograffin study to
   evaluate bowel near splenic fluid collection, evaluate for possible
   source of infection, and also allow PO intake if possible.
   - cont flagyl and cipro for now; appreciate ID recs
   - monitor abd exam
   .
   ## PCN Allergy: Successful desensitization, now on standing PCN.
   .
   ## S/P Intubation: Patient intubated prior to going to OR for drainage
   of brain abscess.  She remains stable on CMV. Patient will likely
   require intubation at least until seizures well controlled.
   - ABG 7.44/43/99
   - continue current settings for now; weaning sedatives as no new
   seizure activity, will continue to wean as tolerated and as recommended
   by neuro.
   .
   ##Anemia:  HCT low but stable, will continue to follow closely.
   .
   ## Atrial Fibrillation: Pt is s/p cardioversion in [**2141**]. ECGs while in
   house are sinus rhythm. Per SICU team pt went into afib with rvr and
   was started on dilt drip on [**2143-9-2**]. Pt currently in sinus rhythm in
   90's with ventricular ectopy.
   - cont IV dilt and IV metop for now
   - monitor on tele
   - pt no longer on warfarin given h/o UGIB
   - consider switching back to outpt dose of sotalol when able to take
   PO's
   .
   ## HTN: BP well controlled at this time. Cont BB and CCB as per above.
   No need for addtl agents at this time.
   .
   ##FEN:  goal to keep even.  Will try to place NGT today if study
   allows.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-8-31**] 11:44 AM
   Arterial Line - [**2143-9-2**] 10:30 PM
   22 Gauge - [**2143-9-3**] 08:19 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-09-05 11:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Brain abcess, seizures
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Has been having significant diuresis iover last day
   24 Hour Events:
   No further seizure activity --> decreasing midazolam
   Allergies:
   Penicillins
   Wheezing;
   Codeine
   Rash;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown; Anaphy
   Last dose of Antibiotics:
   Vancomycin - [**2143-9-4**] 03:59 AM
   Fluconazole - [**2143-9-5**] 12:00 AM
   Metronidazole - [**2143-9-5**] 12:00 AM
   Ciprofloxacin - [**2143-9-5**] 04:00 AM
   Penicillin G potassium - [**2143-9-5**] 09:13 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2143-9-4**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2143-9-4**] 10:00 PM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2143-9-5**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 95 (82 - 100) bpm
   BP: 124/69(90) {95/54(71) - 134/75(99)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 89.2 kg
   Height: 63 Inch
             Total In:
                                                                  4,091 mL
                                                                    816 mL
   PO:
             TF:
   IVF:
                                                                  4,091 mL
                                                                    816 mL
   Blood products:
   Total out:
                                                                  5,450 mL
                                                                  2,360 mL
   Urine:
                                                                  5,450 mL
                                                                  2,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,359 mL
                                                                 -1,543 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/43/99.[**Numeric Identifier 433**]/27/4
   Ve: 8.1 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No acute distress, intubateed
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   583 K/uL
   116 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.0 mEq/L
   6 mg/dL
   101 mEq/L
   139 mEq/L
   23.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2143-9-2**]  02:05 AM
                             [**2143-9-2**]  11:06 AM
                             [**2143-9-2**]  08:26 PM
                             [**2143-9-3**]  02:45 AM
                             [**2143-9-3**]  01:12 PM
                             [**2143-9-4**]  01:38 AM
                             [**2143-9-4**]  02:33 AM
                             [**2143-9-4**]  02:47 PM
                             [**2143-9-5**]  02:41 AM
                             [**2143-9-5**]  03:40 AM
   WBC
   10.5
   11.6
   15.1
   9.8
   10.0
   7.3
   7.4
   8.5
   Hct
   24.2
   25.8
   25.1
   21.9
   23.0
   23.4
   22.8
   23.5
   Plt
   338
   397
   485
   376
   [**Telephone/Fax (2) 8005**]83
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   31
   30
   Glucose
   121
   120
   127
   117
   125
   101
   116
   Other labs: PT / PTT / INR:18.2/27.1/1.6, Alk Phos / T Bili:/0.2,
   Differential-Neuts:73.6 %, Lymph:18.1 %, Mono:4.3 %, Eos:3.7 %, Lactic
   Acid:1.5 mmol/L, LDH:156 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   53 yo woman with brain abcess, splenic abcess, fevers, respiratory
   failure
   1. Brain abcess: Continue PCN
   2. Seizure: Cont Keppra, midazolam, dilantin.  Cont to wean midazolam.
   No further seizures at the moment.
   3. Splenic abcess: no drainable collection per IR. Cont cipro/flagyl
   4. ?Anastomotic leak: low suspicion --> gastrograffin study tomorrow
   5. Respiratory Failure: Continue current vent management.  Extubation
   after sedation can weaned since benzo also on for saeizures.
   Remainder of issue per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-8-31**] 11:44 AM
   Arterial Line - [**2143-9-2**] 10:30 PM
   22 Gauge - [**2143-9-3**] 08:19 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2143-09-06 08:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2143-9-5**] 01:00 PM
 EKG - At [**2143-9-5**] 06:00 PM
 FEVER - 102.2
F - [**2143-9-5**] 12:00 PM
   [**9-5**]
   -? afib [**Name (NI) 8046**], flipped back into NSR before EKG could be gotten
   Allergies:
   Penicillins
   Wheezing;
   Codeine
   Rash;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown; Anaphy
   Last dose of Antibiotics:
   Vancomycin - [**2143-9-4**] 03:59 AM
   Fluconazole - [**2143-9-5**] 12:00 AM
   Metronidazole - [**2143-9-5**] 12:00 AM
   Ciprofloxacin - [**2143-9-6**] 04:24 AM
   Penicillin G potassium - [**2143-9-6**] 05:16 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-9-5**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2143-9-5**] 08:14 PM
   Dilantin - [**2143-9-5**] 10:00 PM
   Metoprolol - [**2143-9-6**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-6**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.3
C (100.9
   HR: 78 (78 - 112) bpm
   BP: 109/60(79) {97/56(73) - 130/69(260)} mmHg
   RR: 26 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 89.2 kg
   Height: 63 Inch
             Total In:
                                                                  1,284 mL
                                                                    559 mL
   PO:
             TF:
   IVF:
                                                                  1,284 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                    920 mL
   Urine:
                                                                  4,310 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,026 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 302 (267 - 476) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 15 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 97%
   ABG: ///25/
   Ve: 9.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   659 K/uL
   7.2 g/dL
   106 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   7 mg/dL
   99 mEq/L
   138 mEq/L
   23.1 %
   9.2 K/uL
        [image002.jpg]
                             [**2143-9-2**]  11:06 AM
                             [**2143-9-2**]  08:26 PM
                             [**2143-9-3**]  02:45 AM
                             [**2143-9-3**]  01:12 PM
                             [**2143-9-4**]  01:38 AM
                             [**2143-9-4**]  02:33 AM
                             [**2143-9-4**]  02:47 PM
                             [**2143-9-5**]  02:41 AM
                             [**2143-9-5**]  03:40 AM
                             [**2143-9-6**]  03:55 AM
   WBC
   11.6
   15.1
   9.8
   10.0
   7.3
   7.4
   8.5
   9.2
   Hct
   25.8
   25.1
   21.9
   23.0
   23.4
   22.8
   23.5
   23.1
   Plt
   397
   485
   376
   [**Telephone/Fax (2) 8047**]59
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   31
   30
   Glucose
   120
   127
   117
   125
   101
   116
   106
   Other labs: PT / PTT / INR:19.7/27.3/1.8, ALT / AST:14/20, Alk Phos / T
   Bili:101/0.1, Differential-Neuts:73.6 %, Lymph:18.1 %, Mono:4.3 %,
   Eos:3.7 %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:171 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Imaging: EEG -. This more rhythmic distribution could represent
   seizure activity, although no clearly sharp epileptiform features were
   recorded.
   Microbiology: blood cx -[**9-1**] -[**9-6**] all pending
   sputum
   GRAM STAIN (Final [**2143-9-4**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 BRAIN ABSCESS (CNS ABSCESS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O BRAIN ABSCESS (CNS ABSCESS)
 .H/O [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   This is a 53 yo female with history of NHL, bovine AVR, afib s/p
   cardioversion who presented with right sided weakness and progressing
   aphasia and found to have L sided parietal abscess which has been
   drained course c/b seizures.
   .
   ## Brain Abscess: Pt is s/p evacuation of L parietal abscess, cultures
   positive for Strep. MRI demonstrates interval improvement since
   evacuation. Wound cxs from brain abscess confirmed streptococcus.  Less
   likely this is [**2-4**] endocarditis given negative TEE today. Other
   possible sources include paranasal sinuses, lungs or GI tract.
   Suspicious of GI tract given fluid collection at hilum of spleen seen
   on CT. Also notable, that patient's chief complaint abd pain. Must also
   consider sinuses though per husband pt not complaining of sinus pain
   nor congestion. Lungs seem unlikely given no infiltrates on CXR.
   - Discuss finding of new multiloculated subdural collection on MR [**First Name (Titles) **]
[**Last Name (Titles) 7979**]urg--?further drainage needed
   - Now on PCN after successful desensitization
   - Cont fluconazole until final fungal cx return
   - follow up final abscess cxs
   - Neurosurg recommends no further intervention for now - will need
   sutures out on POD #10 - [**2143-9-10**]
   - MRI showed chronic sinusitis, but nothing acute - further imaging
   unlikely to add more information.
   ## Seizures: Noted to have focal motor seizures involving right arm
   beginning [**8-31**] recorded on EEG. At that time loaded with dilantin and
   keppra. Despite adding midazolam continous sz activity persisted
   through [**9-2**]. Keppra and Dilantin continued to be titrated up with
   resulting cessation of continous sz activity beginning the evening of
   [**9-2**].
   - Continous EEG monitoring - no evidence of seizure activity per
   neurology
   - Phenytoin level this morning low - 12.8.  Neuro wants to maintain
   level at 20.  Will bolus for increased level.
   -Neuro recommendes decreasing midazolam to 13.5mg/hour. Want dilantin
   levels daily, and bolus 300-500 to maintain level of 20.
   - Continue to follow neurology recs
   .
   ## Splenic Hilum Fluid Collection: Suspicious for focus of infection
   especially given pt's month long complaint of LUQ pain. Discussed with
   ID and general surgery.
   -, plan to place Dophoff with Gastrograffin study to evaluate bowel
   near splenic fluid collection, evaluate for possible source of
   infection, and also allow PO intake if possible. Scheduled for tomorrow
   - cont flagyl and cipro for now; appreciate ID recs
   - monitor abd exam
   .
   ## S/P Intubation: Patient intubated prior to going to OR for drainage
   of brain abscess.  She remains stable on CMV. Patient will likely
   require intubation at least until seizures well controlled.
   - ABG 7.44/43/99
   - continue current settings for now; weaning sedatives as no new
   seizure activity, will continue to wean as tolerated and as recommended
   by neuro.
   -talk to neurosurg re weaning sedation, try to wean from vent
   .
   ##Anemia:  HCT low but stable, will continue to follow closely.
   .
   ## Atrial Fibrillation: Pt is s/p cardioversion in [**2141**]. ECGs while in
   house are sinus rhythm. Per SICU team pt went into afib with rvr and
   was started on dilt drip on [**2143-9-2**]. Pt currently in sinus rhythm in
   90's with ventricular ectopy.
   - cont IV metop for now
   - monitor on tele
   - pt no longer on warfarin given h/o UGIB
   - consider switching back to outpt dose of sotalol when able to take
   PO's
   .
   ## HTN: BP well controlled at this time. Cont BB and CCB as per above.
   No need for addtl agents at this time.
   ##FEN:  goal to keep even.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-8-31**] 11:44 AM
   Arterial Line - [**2143-9-2**] 10:30 PM
   22 Gauge - [**2143-9-3**] 08:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-09-06 12:46:00 Physician Attending Progress Note
Chief Complaint: Brain abcess, Seizures, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Went for gastrograffin study today - results pending
   EEG without clear seizure activity
   Head CT done - results pending
   Brain abcess culture - Strep milleri
   24 Hour Events:
 PAN CULTURE - At [**2143-9-5**] 01:00 PM
 EKG - At [**2143-9-5**] 06:00 PM
 FEVER - 102.2
F - [**2143-9-5**] 12:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Wheezing;
   Codeine
   Rash;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown; Anaphy
   Last dose of Antibiotics:
   Vancomycin - [**2143-9-4**] 03:59 AM
   Fluconazole - [**2143-9-5**] 12:00 AM
   Ciprofloxacin - [**2143-9-6**] 04:24 AM
   Metronidazole - [**2143-9-6**] 08:00 AM
   Penicillin G potassium - [**2143-9-6**] 09:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Metoprolol - [**2143-9-6**] 06:03 AM
   Pantoprazole (Protonix) - [**2143-9-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-9-6**] 08:00 AM
   Dilantin - [**2143-9-6**] 10:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2143-9-6**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38
C (100.4
   HR: 85 (78 - 112) bpm
   BP: 110/65(83) {97/56(73) - 130/69(260)} mmHg
   RR: 28 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 89.2 kg
   Height: 63 Inch
             Total In:
                                                                  1,284 mL
                                                                    845 mL
   PO:
             TF:
   IVF:
                                                                  1,284 mL
                                                                    845 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,400 mL
   Urine:
                                                                  4,310 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,026 mL
                                                                   -555 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (267 - 476) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///25/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   659 K/uL
   106 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   7 mg/dL
   99 mEq/L
   138 mEq/L
   23.1 %
   9.2 K/uL
        [image002.jpg]
                             [**2143-9-2**]  11:06 AM
                             [**2143-9-2**]  08:26 PM
                             [**2143-9-3**]  02:45 AM
                             [**2143-9-3**]  01:12 PM
                             [**2143-9-4**]  01:38 AM
                             [**2143-9-4**]  02:33 AM
                             [**2143-9-4**]  02:47 PM
                             [**2143-9-5**]  02:41 AM
                             [**2143-9-5**]  03:40 AM
                             [**2143-9-6**]  03:55 AM
   WBC
   11.6
   15.1
   9.8
   10.0
   7.3
   7.4
   8.5
   9.2
   Hct
   25.8
   25.1
   21.9
   23.0
   23.4
   22.8
   23.5
   23.1
   Plt
   397
   485
   376
   [**Telephone/Fax (2) 8047**]59
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   31
   30
   Glucose
   120
   127
   117
   125
   101
   116
   106
   Other labs: PT / PTT / INR:19.7/27.3/1.8, ALT / AST:14/20, Alk Phos / T
   Bili:101/0.1, Differential-Neuts:73.6 %, Lymph:18.1 %, Mono:4.3 %,
   Eos:3.7 %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:171 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   53 yo woman with brain abcess, splenic abcess, fevers, respiratory
   failure
   1. Brain abcess: Continue PCN
   2. Seizure: Cont Keppra, midazolam, dilantin.  Midazolam just turned
   off.  No definitive evidence of further seizures
   3. Splenic abcess: no drainable collection per IR. Cont cipro/flagyl
   4. ?Anastomotic leak: Awaiting gastrograffin study results
   5. Respiratory Failure: Continue current vent management. If no
   intervention needed for potential anastomotic leak can move toward
   extubation in next 12-24 hours.
   6. F/E/N: Will continue to try to keep up with Is and Os given
   persistent diuresis.
   Remainder of issue per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO for now given possibility of anastomotic leak
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-8-31**] 11:44 AM
   Arterial Line - [**2143-9-2**] 10:30 PM
   22 Gauge - [**2143-9-3**] 08:19 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   CT head shows increased size of subdural collection as well as small
   midline shift.  Abscess size unchanged.  Discussed by our team with
   infectious disease and neurosurgery.  I agree that it makes sense to
   proceed with operative intervention at the present time, since
   antibiotics alone unlikely to be effective in the time span needed.
   Family is at bedside.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2143-9-6**] 19:58 ------

2143-09-08 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Pt transferred back to MICU service
   -NPO now, for speech and swallow eval tomorrow. Until then cannot get
   the PO contrast for requested CT abdomen
   -CT Abd/Pelvis w/ PO and IV contrast recommended for concerning
   peri-splenic fluid collection. Per IR, further imaging is necessary to
   fully evaluate for percuatenous drainage.
   -[**Hospital1 **] protonix started
   -Neurosurg wants MRI w/ gad on [**2143-9-10**]
   -[**Doctor First Name **] recommended GI consult
   -[**Doctor First Name **] wants NGT at suction
   -at 10pm, nursing concerned that pt agitated/?MS changes. throwing mask
   on the ground b/c she was upset with the way it smelt. Husband did not
   voice any particular concern with her behavior. Pt [**Name (NI) 809**]. No evidence of
   somnolence. Saturating well (93% on 4L NC), so we kept her on just NC.
   Allergies:
   Penicillins
   Wheezing;
   Codeine
   Rash;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown; Anaphy
   Last dose of Antibiotics:
   Fluconazole - [**2143-9-7**] 05:33 AM
   Ciprofloxacin - [**2143-9-7**] 04:22 PM
   Metronidazole - [**2143-9-8**] 12:03 AM
   Penicillin G potassium - [**2143-9-8**] 05:42 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2143-9-7**] 09:13 PM
   Dilantin - [**2143-9-8**] 02:20 AM
   Metoprolol - [**2143-9-8**] 05:42 AM
   Morphine Sulfate - [**2143-9-8**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-8**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.9
   HR: 84 (80 - 95) bpm
   BP: 112/69(79) {112/68(79) - 112/69(79)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 89.2 kg
   Height: 63 Inch
             Total In:
                                                                  3,877 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                  3,877 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                    895 mL
   Urine:
                                                                  3,030 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    697 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 290 (290 - 335) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 4%
   PIP: 10 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.47/38/84.[**Numeric Identifier 1132**]/28/3
   Ve: 9 L/min
   PaO2 / FiO2: 2,100
   Physical Examination
   Gen NAD, communicating
   Cv RRR
   Resp cta anteriorly
   Abd soft, nt +BS
   Ext no edema 2+DP b/l
   Labs / Radiology
   891 K/uL
   7.7 g/dL
   124 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   6 mg/dL
   96 mEq/L
   138 mEq/L
   25.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2143-9-4**]  02:47 PM
                             [**2143-9-5**]  02:41 AM
                             [**2143-9-5**]  03:40 AM
                             [**2143-9-6**]  03:55 AM
                             [**2143-9-6**]  04:11 PM
                             [**2143-9-6**]  11:38 PM
                             [**2143-9-7**]  04:47 AM
                             [**2143-9-7**]  07:20 AM
                             [**2143-9-7**]  04:11 PM
                             [**2143-9-8**]  04:21 AM
   WBC
   7.4
   8.5
   9.2
   11.6
   11.1
   11.7
   Hct
   22.8
   23.5
   23.1
   25.4
   23.6
   25.6
   Plt
   524
   583
   659
   [**Telephone/Fax (3) 8114**]
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   30
   30
   22
   28
   Glucose
   101
   116
   106
   117
   128
   124
   Other labs: PT / PTT / INR:19.7/27.3/1.8, ALT / AST:14/20, Alk Phos / T
   Bili:101/0.1, Differential-Neuts:73.6 %, Lymph:18.1 %, Mono:4.3 %,
   Eos:3.7 %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:171 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CT head ([**9-7**]):
   IMPRESSION: Post-operative changes and decrease in size of left frontal
   empyema and frontoparietal abscess/fluid collection.
   Microbiology: [**2143-9-6**]  TISSUE GRAM STAIN-FINAL; TISSUE-PRELIMINARY
   INPATIENT
   [**2143-9-6**]  SWAB GRAM STAIN-FINAL; WOUND CULTURE-PRELIMINARY; ANAEROBIC
   CULTURE-PRELIMINARY INPATIENT
   [**2143-9-6**]  SWAB GRAM STAIN-FINAL; WOUND CULTURE-PRELIMINARY; ANAEROBIC
   CULTURE-PRELIMINARY INPATIENT
   [**2143-9-6**]  SEROLOGY/BLOOD HELICOBACTER PYLORI ANTIBODY TEST-PENDING
   INPATIENT
   [**2143-9-5**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-5**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2143-9-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL;
   LEGIONELLA CULTURE-PRELIMINARY INPATIENT
   [**2143-9-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-4**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2143-9-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-2**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2143-9-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-2**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2143-9-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-2**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   [**2143-9-1**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2143-9-1**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2143-9-1**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2143-8-31**]  ABSCESS GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY
   {STREPTOCOCCUS ANGINOSUS (MILLERI) GROUP}; ANAEROBIC CULTURE-FINAL
   INPATIENT
   [**2143-8-31**]  ABSCESS GRAM STAIN-FINAL; WOUND CULTURE-FINAL
   {STREPTOCOCCUS SPECIES}; ANAEROBIC CULTURE-FINAL; ACID FAST
   SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY
   INPATIENT
   [**2143-8-31**]  SWAB GRAM STAIN-FINAL; WOUND CULTURE-FINAL {STREPTOCOCCUS
   SPECIES}; ANAEROBIC CULTURE-FINAL INPATIENT
   [**2143-8-31**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2143-8-31**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2143-8-31**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2143-8-30**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2143-8-30**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 BRAIN ABSCESS (CNS ABSCESS)
 .H/O BRAIN ABSCESS (CNS ABSCESS)
 .H/O [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   This is a 53 yo female with history of NHL, bovine AVR, afib s/p
   cardioversion who presented with right sided weakness and progressing
   aphasia and found to have L sided parietal abscess which has been
   drained course c/b seizures.
   .
   ## Brain Abscess: Pt is s/p evaculation of subdural abscess and
   drainage of parietal abscess overnight, cultures positive for Strep.
   Wound cxs from brain abscess confirmed streptococcus.  Recent negative
   TEE. Other possible sources include paranasal sinuses, lungs or GI
   tract. Suspicious of GI tract given fluid collection at hilum of spleen
   seen on CT. Also notable, that patient's chief complaint abd pain.  MRI
   shows chronic sinusitis as a possible source.  Lungs seem unlikely
   given no infiltrates on CXR
   - continue PCN s/p desentization, on nafcillin
   - follow up final abscess cxs & sensitivies
   - needs repeat MRI with gad on [**2143-9-10**]
   ## Seizures: Noted to have focal motor seizures involving right arm
   beginning [**8-31**] recorded on EEG. At that time loaded with dilantin and
   keppra. Despite adding midazolam continous sz activity persisted
   through [**9-2**]. EEG showed interval resolution of seizure activity.
   - Phenytoin 17, will adjust per neuro recs, goal level is 20.
   - Continue to follow neurology recs
   .
   ## Splenic Hilum Fluid Collection: Per IR there is most likely a leak
   at her gastric jejunostomy.
   - fup final read of study
   -needs CT with IV and PO contrast for further eval for percutaneous
   drainage by IR. Has NGT to suction and taking PO contrast through that
   - cont flagyl and cipro for now; appreciate ID recs
   -surgery also recommends GI consult- will need to affirm what the
   overall plan is for drainage
   -f/u surgery recs
   .
   ## S/P extubation: Patient intubated prior to going to OR for drainage
   of brain abscess.  Patient with extubation yesterday, maintaining
   saturations in 93% range on 4L NC overnight.
   -continue to monitor respiratory status
   -up to chair today
   -f/u cxr
   .
   ##Anemia:  HCT low but stable, will continue to follow closely.
   .
   ## Atrial Fibrillation: Pt is s/p cardioversion in [**2141**]. ECGs while in
   house are sinus rhythm. Pt has required dilt drip in the past but
   remains in NSR.
   - cont IV metop for now
   - monitor on tele
   - pt no longer on warfarin given h/o UGIB
   .
   ## HTN: BP well controlled at this time. Cont BB. No need for addtl
   agents at this time.
   ##FEN:  goal to keep even.
   ICU Care
   Nutrition: NPO for now.  Will start TPN overweekend.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-9-6**] 08:00 PM
   22 Gauge - [**2143-9-6**] 10:20 PM
   Prophylaxis:
   DVT: pneumoboots.
   Stress ulcer: protonix
   VAP:  HOB elevation, mouth care.
   Comments:
   Communication:  husband
   [**Name (NI) 129**] status: full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-9-6**] 08:00 PM
   Arterial Line - [**2143-9-6**] 10:12 PM
   22 Gauge - [**2143-9-6**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has safely extubated and remains quite alert and able to
   participate in simple tasks. She is moving her right side better too.
   Dr [**First Name (STitle) **] will advise regarding further interventions upon review of her
   abd CT scans. TPN will be initiated until GI issues sorted out. She may
   need IR drainage of intra-abdominal collection even with current
   antibiotics regimen. Her husband has been a good source of support to
   her in the past 24 hours especially after extubation. She is depressed.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2143-9-8**] 15:21 ------

2143-09-09 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2143-9-8**] 09:17 AM
   -dilantin should be corrected for albumin c equation of (phenytoin
   level/(0.2xalbumin+0.1). THus yesterday's am dilantin would correct to
   26, so we held pm dilantin and checked again at 9p (which gave level
   corrected to 19). Final decision was to restart 100 TID aiming for a
   corrected dilantin of 15-20 or an uncorrected dilantin of [**10-14**].
   -should be checking daily am dilantin levels for now.
   -CT abdomen: "The small air-fluid collection at the splenic hilum,has
   slightly decreased in size since the previous study and again tracks
   through the spleen is an unusual wedge-shaped configuration to the
   subcapsular region associated with a small pleural effusion and left
   lower lobe atelectasis. The cause of this collection is indeterminate,
   presence of the wedge-shaped low-attenuation
   abnormalities in the periphery of the spleen could represent prior
   infarcts.
   The collection would be difficult to access percutaneously and would
   probably require a trans-splenic approach
     New right lower lobe centrilobular nodules with a tree-in-[**Male First Name (un) **]
   configuration and atelectasis suggests recent infection or inflammation
   possibly due to aspiration.
     Left adnexal ovoid homogeneous cystic abnormality should be further
   assessed with ultrasound."
   -NGT to stay in overnight per surgery
   -continues to autodiurese
   -no neuro or neurosurg recs found
   -ID recommends more of the same abx
   Allergies:
   Penicillins
   Wheezing;
   Codeine
   Rash;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown; Anaphy
   Last dose of Antibiotics:
   Fluconazole - [**2143-9-7**] 05:33 AM
   Metronidazole - [**2143-9-9**] 12:53 AM
   Ciprofloxacin - [**2143-9-9**] 04:20 AM
   Penicillin G potassium - [**2143-9-9**] 06:25 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-9-8**] 08:03 PM
   Lorazepam (Ativan) - [**2143-9-8**] 10:52 PM
   Dilantin - [**2143-9-9**] 12:54 AM
   Metoprolol - [**2143-9-9**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-9**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.3
   HR: 93 (80 - 99) bpm
   BP: 108/70(78) {83/45(58) - 121/77(88)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.2 kg (admission): 89.2 kg
   Height: 63 Inch
             Total In:
                                                                  1,460 mL
                                                                    565 mL
   PO:
             TF:
   IVF:
                                                                  1,460 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    630 mL
   Urine:
                                                                  2,560 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,100 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   Gen: Patient anxious and tearful; aphasic/word finding difficulties.
   CV: RRR
   Resp: decreased BS at bases L>R
   Abd: soft, NTND
   Ext: Moving all four extremities; still with some limitations in
   movement of right side, but improving
   Labs / Radiology
   878 K/uL
   7.9 g/dL
   141 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   6 mg/dL
   96 mEq/L
   136 mEq/L
   25.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2143-9-5**]  02:41 AM
                             [**2143-9-5**]  03:40 AM
                             [**2143-9-6**]  03:55 AM
                             [**2143-9-6**]  04:11 PM
                             [**2143-9-6**]  11:38 PM
                             [**2143-9-7**]  04:47 AM
                             [**2143-9-7**]  07:20 AM
                             [**2143-9-7**]  04:11 PM
                             [**2143-9-8**]  04:21 AM
                             [**2143-9-9**]  04:22 AM
   WBC
   8.5
   9.2
   11.6
   11.1
   11.7
   9.8
   Hct
   23.5
   23.1
   25.4
   23.6
   25.6
   25.8
   Plt
   583
   659
   773
   [**Telephone/Fax (3) 8140**]
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   30
   30
   22
   28
   Glucose
   116
   106
   117
   128
   124
   141
   Other labs: PT / PTT / INR:14.4/24.6/1.2, ALT / AST:14/20, Alk Phos / T
   Bili:101/0.1, Differential-Neuts:73.6 %, Lymph:18.1 %, Mono:4.3 %,
   Eos:3.7 %, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:171 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: ct abd/pelvis
   The small air-fluid collection at the splenic hilum,has slightly
   decreased in size since the previous study and again tracks through the
   spleen
   is an unusual wedge-shaped configuration to the subcapsular region
   associated
   with a small pleural effusion and left lower lobe atelectasis. The
   cause of
   this collection is indeterminate, presence of the wedge-shaped
   low-attenuation
   abnormalities in the periphery of the spleen could represent prior
   infarcts.
   The collection would be difficult to access percutaneously and would
   probably
   require a trans-splenic approach
   New right lower lobe centrilobular nodules with a tree-in-[**Male First Name (un) **]
   configuration
   and atelectasis suggests recent infection or inflammation possibly due
   to
   aspiration.
   Left adnexal ovoid homogeneous cystic abnormality should be further
   assessed
   with ultrasound.
   The case was discussed with the referring physician at the time of
   imaging.
   cxr
   The endotracheal tube is no longer visualized. There is an NG tube
   with tip in the stomach. There is a right IJ line with tip at the
   cavoatrial
   junction. There is left lower lobe volume loss and right lower lobe
   volume
   loss with obscuration of the hemidiaphragms and underlying infectious
   infiltrate cannot be totally excluded. Compared to the prior study, the
   change in appearance may be secondary to technique and positioning
   rather than
   a true change in the bibasilar atelectasis/infiltrate.
   Microbiology: [**2143-9-6**]  TISSUE GRAM STAIN-FINAL; TISSUE-PRELIMINARY
   INPATIENT
   [**2143-9-6**]  SWAB GRAM STAIN-FINAL; WOUND CULTURE-FINAL; ANAEROBIC
   CULTURE-PRELIMINARY INPATIENT
   [**2143-9-6**]  SWAB GRAM STAIN-FINAL; WOUND CULTURE-FINAL; ANAEROBIC
   CULTURE-PRELIMINARY INPATIENT
   [**2143-9-6**]  SEROLOGY/BLOOD HELICOBACTER PYLORI ANTIBODY TEST-PENDING
   INPATIENT
   [**2143-9-5**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-5**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2143-9-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL;
   LEGIONELLA CULTURE-PRELIMINARY INPATIENT
   [**2143-9-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-4**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2143-9-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2143-9-2**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2143-9-2**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2143-9-2**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2143-9-2**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2143-9-2**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 BRAIN ABSCESS (CNS ABSCESS)
 .H/O BRAIN ABSCESS (CNS ABSCESS)
 .H/O [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   This is a 53 yo female with history of NHL, bovine AVR, afib s/p
   cardioversion who presented with right sided weakness and progressing
   aphasia and found to have L sided parietal abscess which has been
   drained course c/b seizures.
   .
   ## Splenic Hilum Fluid Collection: Per IR there is most likely a leak
   at her gastric jejunostomy.  CT shows some resolution. Currently on
   cipro/Flagyl.
   - not possible to percutaneously drain. Will likely need open surgery.
   Will need to decided if collection can just be clinically followed w/
   antibiotics since it seems to be decreasing in size on CT
   - cont flagyl and cipro for now; appreciate ID recs; need to know how
   long of a course should be expected.
   -surgery also recommends GI consult for further visualization of the
   leak; will discuss if they still want consult
   ## Brain Abscess: Pt is s/p evaculation of subdural abscess and
   drainage of parietal abscess overnight, cultures positive for Strep.
   Wound cxs from brain abscess confirmed streptococcus.  Recent negative
   TEE. Other possible sources include paranasal sinuses, lungs or GI
   tract. Suspicious of GI tract given fluid collection at hilum of spleen
   seen on CT. Also notable, that patient's chief complaint abd pain.  MRI
   shows chronic sinusitis as a possible source.  Lungs seem unlikely
   given no infiltrates on CXR
   - continue PCN s/p desentization, on penicillin G
   - follow up final abscess cxs & sensitivies
   - needs repeat MRI with gad on [**2143-9-10**]
   ## Seizures: Noted to have focal motor seizures involving right arm
   beginning [**8-31**] recorded on EEG. At that time loaded with dilantin and
   keppra. Despite adding midazolam continous sz activity persisted
   through [**9-2**]. EEG showed interval resolution of seizure activity.
   - Continue dilantin 100 TID aiming for a corrected dilantin of 15-20 or
   an uncorrected dilantin of [**10-14**]
   - Continue to follow neurology recs
   .
   ## S/P extubation: Patient intubated prior to going to OR for drainage
   of brain abscess.  Patient with extubation yesterday, maintaining
   saturations in 93% range on 4L NC overnight.
   -continue to monitor respiratory status
   -up to chair today
   .
   ##Anemia:  HCT low but stable, will continue to follow closely.
   .
   ## Atrial Fibrillation: Pt is s/p cardioversion in [**2141**]. ECGs while in
   house are sinus rhythm. Pt has required dilt drip in the past but
   remains in NSR.
   - cont IV metop for now
   - monitor on tele
   - pt no longer on warfarin given h/o UGIB
   .
   ## HTN: BP well controlled at this time. Cont BB. No need for addtl
   agents at this time.
   ##FEN:  goal to keep even.
   ICU Care
   Nutrition: NPO for now.  Will start TPN; awaiting nutrition recs and
   PICC line placement.
   Lines:
   Multi Lumen - [**2143-9-6**] 08:00 PM
   22 Gauge - [**2143-9-6**] 10:20 PM
   Prophylaxis:
   DVT: pneumoboots.
   Stress ulcer: protonix
   Comments:
   Communication:  husband
   [**Name (NI) 129**] status: full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-9-6**] 08:00 PM
   20 Gauge - [**2143-9-8**] 11:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has a collection of fluid (smaller) near splenic hilum that is not
   amenable to percutaneous drainage. She needs optimization of her
   nutritional status and consideration of a J tube if TPN is not a viable
   option for the next few weeks to allow wound healing around the recent
   surgical site. Dr [**First Name (STitle) **] will advise regarding these issues. She wil
   leave the ICU today as she has been seizure free on current levels of
   dilantin. Her breathing is back to baseline and her RUE weakness has
   also shown signs of improving.
   Remainder of plan as outlined above.
   Patient is ill but improving
   Total time: 20 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2143-9-9**] 18:42 ------